US07064124B2
N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine
Morpholine (0.033 g, 0.38 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.109 g, 0.57 mmol) were added to a methylene chloride solution (10 ml) of 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (0.080 g, 0.19 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:1) to obtain the titled compound (0.057 g, 0.12 mmol, 61%).

reactant | Morpholine | 0.38 mmol, 0.033 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.57 mmol, 0.109 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.19 mmol, 0.080 g | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OCC1=CC=CC=C1)C)=O | C24H22O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine | 0.12 mmol, 0.057 g, 61% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)N2CCOCC2)C=CC1)OCC1=CC=CC=C1)C)=O | C28H29NO7
